US05885986
0.30 g (0.00091 mol) of 3-(4-chloromethyl-oxazol-2-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one was dissolved in 40 ml of tetrahydrofuran, treated with 2.5 ml (0.0183 mol) of dipropylamine and boiled at reflux for 20 hrs. The solution was completely freed from the solvents and the residue was chromatographed over silica gel with ethyl acetate/ethanol 9:1 as the eluent. There was obtained 0.24 g (67%) of 3-(4-dipropylaminomethyl-oxazol-2-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one as a white solid. An analytical sample was recrystallized from diisopropyl ether and gave white crystals; m.p. 109°-110°.

reactant | 3-(4-chloromethyl-oxazol-2-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 0.00091 mol, 0.30 g | ClCC=1N=C(OC1)C=1N=CN2C1CN(C(C1=C2C=CC=C1)=O)C | C16H13ClN4O2
reactant | dipropylamine | 0.0183 mol, 2.5 ml | C(CC)NCCC | C6H15N
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 3-(4-dipropylaminomethyl-oxazol-2-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 0.24 g, 67% | C(CC)N(CCC)CC=1N=C(OC1)C=1N=CN2C1CN(C(C1=C2C=CC=C1)=O)C | C22H27N5O2
